US04306097
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-2-cyclohexenol
To a -30° C. solution of 1.00 g. (3.18 mmole) of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-2-cyclohexenone in 60 ml. of ether was added dropwise 6.3 ml. of a 1 M (in toluene) diisobutylaluminum hydride solution. The reaction was stirred 30 min. longer at -30° C. and then added to 1.5 1. water. The quenched solution was extracted with three 400 ml. portions of ether and the combined extracts washed twice with 125 ml. of saturated sodium chloride and dried over magnesium sulfate. After evaporation the crude product was purified via column chromatography on 50 g. of florial eluted with ether to yield an oil. Crystallization of the oil from pentane gave 256 mg. (25%) of the title product.

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-2-cyclohexenone | 3.18 mmole | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1=CC(CCC1)=O)O | C21H30O2
reactant | ether | CCOCC | C4H10O
reactant | diisobutylaluminum hydride | 1 M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | water | O | H2O
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-2-cyclohexenol | 25% | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1=CC(CCC1)O)O | C21H32O2
